US08476253B2
4-(Bromomethyl)-3,5-dimethylbenzonitrile (500 mg, 2.23 mmol) was dissolved in a 2 M methylamine-tetrahydrofuran solution (5 mL), and the mixture was stirred at room temperature under a nitrogen atmosphere for 3 hours. After the reaction was completed, the solvent was evaporated under reduced pressure, ethyl acetate was added under ice cooling, and a saturated aqueous sodium hydrogencarbonate solution was further added to neutralize the mixture and separate the layers. The resulting organic layer was separated, washed with saturated sodium chloride solution, and then dried with anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The resulting residue was dissolved in tetrahydrofuran (10 mL), di-tert-butyl dicarbonate (584 mg, 2.68 mmol) was added under ice cooling, and the mixture was stirred at the same temperature under a nitrogen atmosphere for 16 hours. After the reaction was completed, the solvent was evaporated under reduced pressure. The residue was purified by NH silica gel column chromatography (hexane:ethyl acetate, 10:1, v/v) to give tert-butyl (4-cyano-2,6-dimethylbenzyl)methylcarbamate (550 mg; yield, 90%) as a colorless oily substance.

reactant | 4-(Bromomethyl)-3,5-dimethylbenzonitrile | 2.23 mmol, 500 mg | BrCC1=C(C=C(C#N)C=C1C)C | C10H10BrN
reactant | di-tert-butyl dicarbonate | 2.68 mmol, 584 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | methylamine tetrahydrofuran | 2 M, 5 mL | CN.O1CCCC1
product | tert-butyl (4-cyano-2,6-dimethylbenzyl)methylcarbamate | 550 mg, 90% | C(#N)C1=CC(=C(CCNC(OC(C)(C)C)=O)C(=C1)C)C | C16H22N2O2
